US07872028B2
Step 2. (2R,3S)-3-Amino-1-azido-4-cyclohexylbutan-2-ol
(2R,3S)-3-(t-Butoxycarbonylamino)-1-azido-4-cyclohexylbutan-2-ol (94 mg, (0.30 mmol) was dissolved in dioxane (1 mL) and treated with 4M HCl in dioxane (1 mL). The reaction was allowed to stir for 2 h at rt. The solvent was evaporated and the hydrochloric acid salt of (3R)-3-(1-hydroxy-5-methoxy-1-(2-phenoxyphenyl)pentyl)-N-(piperidin-3-yl)piperidine-1-carboxamide (˜74 mg) was used directly.

reactant | (2R,3S)-3-(t-Butoxycarbonylamino)-1-azido-4-cyclohexylbutan-2-ol | C(C)(C)(C)OC(=O)N[C@H]([C@@H](CN=[N+]=[N-])O)CC1CCCCC1 | C15H28N4O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (2R,3S)-3-Amino-1-azido-4-cyclohexylbutan-2-ol | N[C@H]([C@@H](CN=[N+]=[N-])O)CC1CCCCC1 | C10H20N4O
